US09328106B2
To a solution of 6-(2-methyl-4-nitro-pyrazol-3-yl)oxepan-3-ol (53 mg, 0.22 mmol) in DCM (6 mL) was added Dess-Martin periodinane (192 mg, 0.44 mmol) and sodium bicarbonate (93 mg, 1.10 mmol). The mixture was stirred at room temperature overnight, quenched with water, and extracted with DCM (3×). Combined organic layers were concentrated to dryness and purified via silica gel chromatography (0-100% EtOAc/heptane) to afford 6-(2-methyl-4-nitro-pyrazol-3-yl)oxepan-3-one (53 mg, quant.).

reactant | 6-(2-methyl-4-nitro-pyrazol-3-yl)oxepan-3-ol | 0.22 mmol, 53 mg | CN1N=CC(=C1C1CCC(COC1)O)[N+](=O)[O-] | C10H15N3O4
reactant | Dess-Martin periodinane | 0.44 mmol, 192 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | sodium bicarbonate | 1.10 mmol, 93 mg | C([O-])(O)=O.[Na+]
solvent | DCM | 6 mL | C(Cl)Cl | CH2Cl2
product | 6-(2-methyl-4-nitro-pyrazol-3-yl)oxepan-3-one | 53 mg | CN1N=CC(=C1C1CCC(COC1)=O)[N+](=O)[O-] | C10H13N3O4
